US06245763B1
7. 3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-(carboxymethyl)-2-pyridinone
3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone (1.24 g, 2.95 mmol), as prepared in the preceding step, was dissolved in methylene chloride (20 mL) and reacted with trifluoroacetic acid (8 mL) at ambient temperature for 2 hours. After evaporation in vacuo, the crude product was dissolved in methylene chloride, washed with pH 7 buffer and brine, dried over MgSO4, and filtered. Evaporation of the filtrate gave the title compound (0.72 g, 67%) as a light yellow solid. Mass spectrum (LCMS, ESI) calcd. for C17H20N2O5S: 365.4 (M+H). Found: 365.1.

reactant | 3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 2.95 mmol, 1.24 g | CC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C(C)C)CC(=O)OC(C)(C)C)=O | C21H28N2O5S
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-(carboxymethyl)-2-pyridinone | 0.72 g, 67% | CC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C(C)C)CC(=O)O)=O | C17H20N2O5S
